US07608723B2
To a solution of N-[1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propyl]-N-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propyl]-4-methyl-benzamide (0.302 mmol) in ethanol at room temperature, was added hydrazine (0.19 mL, 6 mmol). The reaction was stirred at room temperature for 1 h. The crude product was purified via reverse phase chromatography to give N-(3-amino-propyl)-N-[1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propyl]-4-methyl-benzamide (129 mg).

reactant | N-[1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propyl]-N-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propyl]-4-methyl-benzamide | 0.302 mmol | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)C)C(C(C)C)N(C(C2=CC=C(C=C2)C)=O)CCCN2C(C1=CC=CC=C1C2=O)=O | C38H38N4O3
reactant | hydrazine | 6 mmol, 0.19 mL | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | N-(3-amino-propyl)-N-[1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propyl]-4-methyl-benzamide | 129 mg | NCCCN(C(C1=CC=C(C=C1)C)=O)C(C(C)C)C1=NC2=C(N1CC1=CC=CC=C1)C=CC(=C2)C | C30H36N4O
